US08809361B2
1″-(5-Cyclopropyl-pyrimidin-2-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt) and 2-chloro-5-cyclopropyl-pyrimidine following a procedure analogous to that described for Example 15. LC (method 3): tR=0.85 min; Mass spectrum (ESI+): m/z=508 [M+H]+.

reactant | 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C20H27N3O3S
reactant | 2-chloro-5-cyclopropyl-pyrimidine | ClC1=NC=C(C=N1)C1CC1 | C7H7ClN2
product | 1″-(5-Cyclopropyl-pyrimidin-2-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C1(CC1)C=1C=NC(=NC1)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C27H33N5O3S
